US07612068B2
(S)-1-{2-[4-Bromo-2-(3-fluoro-phenylsulfanyl)-phenoxy]-ethyl}-pyrrolidine-2-carboxylic acid tert-butyl ester
4-Bromo-2-(3-fluoro-phenylsulfanyl)-phenol (2.898 g, 9.69 mmol) and triphenylphosphine (3.558 g, 13.6 mmol) was dissolved in tetrahydrofuran (70 mL) and cooled to 0° C. under an inert atmosphere. To the solution was added DEAD (2.81 mL, 14.27 mmol)dropwise. After 25 minutes was added 1-(2-hydroxy-ethyl)-pyrrolidine-2-(S)-carboxylic acid tertbutyl ester (2.504 g, 1.163 mmol) in THF (15 mL) via cannulation. The mixture was stirred at room temperature for 16 hours. Heptane (350 mL) and THF (100 mL) was added. The organic phase was then washed with water (4×50 mL) and then brine, dried (Na2SO4), filtered and the filtrate concentrated in the presence of silica gel. The crude products absorbed onto silica gel and eluted with a gradient of heptane-heptane ethyl acetate (85:15). The product was isolated after concentration of relevant fractions.

reactant | 4-Bromo-2-(3-fluoro-phenylsulfanyl)-phenol | 9.69 mmol, 2.898 g | BrC1=CC(=C(C=C1)O)SC1=CC(=CC=C1)F | C12H8BrFOS
reactant | triphenylphosphine | 13.6 mmol, 3.558 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 14.27 mmol, 2.81 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-(2-hydroxy-ethyl)-pyrrolidine-2-(S)-carboxylic acid tertbutyl ester | 1.163 mmol, 2.504 g | C(C)(C)(C)OC(=O)[C@H]1N(CCC1)CCO | C11H21NO3
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Heptane | 350 mL | CCCCCCC | C7H16
product | (S)-1-{2-[4-Bromo-2-(3-fluoro-phenylsulfanyl)-phenoxy]-ethyl}-pyrrolidine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)[C@H]1N(CCC1)CCOC1=C(C=C(C=C1)Br)SC1=CC(=CC=C1)F | C23H27BrFNO3S
